US06762321B2
A mixture of 380 mg (0.920 mmol) of N-[2-(3,4-dimethoxyphenyl)ethyl]-3-fluoromethoxy-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylamide, 420 mg (1.01 mmol) of Lawesson's Reagent and 5 ml of anhydrous tetrahydrofuran was refluxed by heating for 3 hours. Water and ethyl acetate were added to the reaction mixture, and the ethyl acetate layer was washed with aqueous sodium hydroxide solution, aqueous ammonium chloride solution and saturated brine subsequently, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography (eluent, hexane:ethyl acetate=3:1) to give 222 mg of N-[2-(3,4-dimethoxyphenyl)ethyl]-3-fluoromethoxy-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylthioamide (the present compound 1160).

reactant | N-[2-(3,4-dimethoxyphenyl)ethyl]-3-fluoromethoxy-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylamide | 0.920 mmol, 380 mg | COC=1C=C(C=CC1OC)CCNC(C(=COCF)C1=CC=2CCCCC2C=C1)=O | C24H28FNO4
reactant | Lawesson's Reagent | 1.01 mmol, 420 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | Water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-(3,4-dimethoxyphenyl)ethyl]-3-fluoromethoxy-2-(5,6,7,8-tetrahydronaphthalen-2-yl)acrylthioamide | 222 mg | COC=1C=C(C=CC1OC)CCNC(C(=COCF)C1=CC=2CCCCC2C=C1)=S | C24H28FNO3S
